US06900227B2
Preparation of 4-fluorophenyl-2-chlorophenyl-dichloromethane
From 2-chlorobenzotrifluoride (180 mg, 1 mmol), AlCl3 (400 mg, 3 mmol) and fluorobenzene (96 mg, 1 mmol), light yellow oil (380 mg, 131% crude).

reactant | 2-chlorobenzotrifluoride | 1 mmol, 180 mg | ClC1=C(C=CC=C1)C(F)(F)F | C7H4ClF3
reactant | AlCl3 | 3 mmol, 400 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | fluorobenzene | 1 mmol, 96 mg | FC1=CC=CC=C1 | C6H5F
product | 4-fluorophenyl-2-chlorophenyl-dichloromethane | FC1=CC=C(C=C1)C(Cl)(Cl)C1=C(C=CC=C1)Cl | C13H8Cl3F
